US07081461B1
N-(3-Chloropropyl)morpholine (90 g, 0.55 mol) was added dropwise, over 30 minutes, to a solution of ethyl vanillate (98 g, 0.50 mol) and powdered potassium carbonate (104 g, 0.75 mol) in dimethylformamide (300 ml) at 80° C. The reaction was heated at 80° C. for 90 minutes, cooled to ambient temperature, filtered and the filtrate concentrated in vacuo. The crude product was taken up in diethyl ether (1000 ml), filtered and washed with water (2×200 ml) and brine (200 ml). Solvent evaporation in vacuo yielded ethyl 3-methoxy-4-(3-morpholinopropoxy)benzoate (161.5 g, 100% yield) as a pale yellow oil which crystallised on standing to afford a pale yellow solid:

reactant | N-(3-Chloropropyl)morpholine | 0.55 mol, 90 g | ClCCCN1CCOCC1 | C7H14ClNO
reactant | ethyl vanillate | 0.50 mol, 98 g | C(C1=CC(OC)=C(O)C=C1)(=O)OCC | C10H12O4
reactant | potassium carbonate | 0.75 mol, 104 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | ethyl 3-methoxy-4-(3-morpholinopropoxy)benzoate | 161.5 g, 100% yield | COC=1C=C(C(=O)OCC)C=CC1OCCCN1CCOCC1 | C17H25NO5
